### PR TITLE
[Merged by Bors] - feat: an explicit criterion for membership in the maximal atlas of a `C^n` manifold

### PR DESCRIPTION
**Pull request by grunweg**
Add an explicit characterisation, that an `OpenPartialHomeomorph` phi lies in the maximal atlas of a C^n manifold if both phi and phi.symm are C^n on their source.

This can be useful to prove that certain explicit maps are in the maximal atlas, so prove some maps are immersions. Motivating examples are #29077 (for the inclusion of a closed interval [a, b] into the real numbers) and for a manual proof that diffeomorphisms are immersions.

Along the way, rename `contMDiff_model` and its inverse cousin `contMDiffOn_model_symm` to match the naming convention, and golf their proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean [hunk 1]
```diff
@@ -48,16 +48,14 @@ section Atlas
 theorem contMDiff_model : ContMDiff I 𝓘(𝕜, E) n I := by
   intro x
   refine contMDiffAt_iff.mpr ⟨I.continuousAt, ?_⟩
-  simp only [mfld_simps]
-  refine contDiffWithinAt_id.congr_of_eventuallyEq ?_ ?_
-  · exact Filter.eventuallyEq_of_mem self_mem_nhdsWithin fun x₂ => I.right_inv
-  simp_rw [Function.comp_apply, I.left_inv, Function.id_def]
+  simpa using contDiffWithinAt_id.congr (fun y hy ↦ by simp [hy]) (by simp)
+alias ModelWithCorners.contMDiff := contMDiff_model -- XXX: which one is better?
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean]: I don't think we should litter the code with comments like this. We should decide now whether we want to keep the old name or else deprecate it.

File: Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean [hunk 2]
```diff
@@ -48,16 +48,14 @@ section Atlas
...
 
 theorem contMDiffOn_model_symm : ContMDiffOn 𝓘(𝕜, E) I n I.symm (range I) := by
-  rw [contMDiffOn_iff]
-  refine ⟨I.continuousOn_symm, fun x y => ?_⟩
-  simp only [mfld_simps]
-  exact contDiffOn_id.congr fun x' => I.right_inv
+  intro x hx
+  apply contMDiffWithinAt_iff.mpr ⟨by fun_prop, ?_⟩
+  simpa using contDiffWithinAt_id.congr (fun y hy ↦ by simp [hy]) (by simp [hx])
+alias ModelWithCorners.contMDiffOn_symm := contMDiffOn_model_symm -- XXX: which one is better?
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean]: As above.

**Review by ocfnash — APPROVED** [review]
The new lemma is great, thanks.

For the renames I think we should decide now what to do. Probably just a simple deprecation but if you're unsure then I think leave the name alone rather than adding both names and an undecided comment.

bors d+

File: Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean]: Indeed - and I've come around to preferring the new name. (The old one didn't match the naming convention anyway.)

**Comment by grunweg** [comment]
Thanks for the fast review!
bors merge
